US03935314
2-(Benzimidazolylamino-2-imidazoline (5.00g) was treated cautiously with oleum (20 ml). The resulting solution was stirred and heated at 100°C for 11/2 hours. After cooling the solution was poured into ice/water (500 ml). Solid calcium carbonate was then added until the pH was 6.5. The white suspension was brought to the boil and the calcium sulphate filtered from the hot solution. The filtrate was concentrated under reduced pressure, brought to the boil again and filtered to remove a trace of insoluble material. The filtrate was acidified with glacial acetic acid and allowed to stand. A crystalline solid (3.98 g) separated on cooling. Recrystallisation from boiling water gave 2-(2-Imidazoline-2-ylamino)benzimidazole-5-sulphonic acid (1.16g) as colourless microcrystals. m.p. >360°C.

reactant | Benzimidazolylamino-2-imidazoline | 5.00g | N1=C(NC2=C1C=CC=C2)NN2C=NCC2 | C10H11N5
reactant | oleum | 20 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
product | 2-(2-Imidazoline-2-ylamino)benzimidazole-5-sulphonic acid | 1.16g | N1C(=NCC1)NC=1NC2=C(N1)C=CC(=C2)S(=O)(=O)O | C10H11N5O3S
